US07601716B2
3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-[2-(4-sulfamoylphenyl)ethyl]benzamide
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 2-(4-sulfamoylphenyl)ethylamine as in General Procedure 10 to give the title compound. LCMS: m/z=629.94 (M+H+); retention time=0.77 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 2-(4-sulfamoylphenyl)ethylamine | S(N)(=O)(=O)C1=CC=C(C=C1)CCN | C8H12N2O2S
product | 3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-[2-(4-sulfamoylphenyl)ethyl]benzamide | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)NCCC2=CC=C(C=C2)S(N)(=O)=O)C=CC3)C1)C(F)(F)F | C30H27ClF3N5O3S
